2169-11-18 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2169-11-17**] 08:38 PM
 EKG - At [**2169-11-17**] 08:45 PM
 NASAL SWAB - At [**2169-11-17**] 10:00 PM
   Weaned off levophed.
   Tele: NSVT with alt native and pacer beats
   S: improved with no CP/SOB.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-18**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 88 (84 - 97) bpm
   BP: 107/74(81) {99/41(58) - 123/81(89)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 11 (10 - 20)mmHg
   Total In:
                                                                  1,335 mL
                                                                     22 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                     35 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    400 mL
   Urine:
                                                                    330 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    605 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: 2L Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL 5->3 mm, EOMI. Conjunctiva were
   pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
   NODES: No cervical, axillary or inguinal LAD.
   NECK: Supple with JVP of [**10-11**] cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular, normal S1, S2. 1-2/6 systoloic murmur at LLSB
   without radiation. No thrills, lifts. No S3 or S4.
   LUNGS: Wheezing.  Scattered crackles throughout.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   PULSES:  2+
   Labs / Radiology
   179 K/uL
   10.1 g/dL
   107 mg/dL
   2.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   47 mg/dL
   93 mEq/L
   128 mEq/L
   31.5 %
   8.3 K/uL
        [image002.jpg]
   [**11-17**] 3PM CK: 54  MB: Notdone  Trop-T: 0.03
   [**11-17**] 9PM CK: 37  MB: Notdone  Trop-T: 0.02
   [**11-18**] 5AM CK: 30  MB: Notdone  Trop-T:
                            [**2169-11-17**]  09:12 PM
                            [**2169-11-18**]  05:38 AM
   WBC
   8.3
   Hct
   31.5
   Plt
   179
   Cr
   2.5
   2.4
   TropT
   0.02
   Glucose
   156
   107
   Other labs: CK / CKMB / Troponin-T:30//0.02, Lactic Acid:0.9 mmol/L,
   Mg++:2.1 mg/dL
   Micro: Blood, urine pending.  Sputum >10 epis, < 10 polys.
   CXR: There is suggestion of increased opacity, possibly infiltrate, in
   the left perihilar region, partially obscured by the overlying
   pacemaker/AICD. If clinically feasible, consider PA and lateral views
   for more sensitive evaluation.
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypovolemic hypotension.
   .
   HYPOTENSION - Multiple potential causes exist for his hypotension.  He
   was well diuresed, coming in 2 lbs over dry weight following 1.5 L
   resuscitation in the ED.  He was also discharged on increased
   beta-blockade.  The absence of p-waves on his EKG raises the
   possibility of atrial-venous asynchrony.  He has reduced cardiac output
   from cardiomyopathy.  He is on chronic steroids and could have a
   component of adrenal insufficiency.  Although he had a recent
   infection, this was treated with broad spectrum antibiotic coverage and
   he has no signs of infection.  No evidence of active ischemia or
   cardiogenic shock.  Lactate is non-specific.  PE unlikely given
   therapeutic INR, but would consider if hypotension persists.
   - hold antihypertensives, would discharge on lower BB dose.
   - no antibiotics for now
   - follow blood, urine, sputum cultures, fever curve, white count.
   - PA and lateral CXR
   - trend lactate
   - wean levophed
   - consider swan-catheter to eval volume status and cardiac function in
   AM
   .
   VENTRICULAR ARRYTHMIA: History of VT in the setting of volume
   overload.  Also, scheduled for ablation on Monday.
   - hold coumadin in preparation for ablation
   - monitor on tele
   - Will make EP aware.
   .
   CONGESTIVE HEART FAILURE: Was likely at or below dry weight on
   admission, now up 1.5 L.  Elevated BNP, JVP, CVP.
   - will diurese gently with Lasix 60 mg daily.
   .
   COPD: Does not appear to be in acute flair
   - Advair/Spireva/Prednisone
   .
   ACUTE ON CHRONIC RENAL FAILURE: On last admission, Cr improved
   initially with lasix and then increased.  Now elevated well over
   baseline.  Urine shows hyaline casts.  FeUrea 35%.  All consistent with
   pre-renal.
   - Watch Cr with rehydration
   .
   ANION GAP ACIDOSIS: Resolved on admission to CCU following fluid
   resuscitation with falling lactate.
   .
   # FEN: Cardiac diet
   .
   # ACCESS: PIV's, Central line
   .
   # PROPHYLAXIS: Theraputic INR, Colase & Senna, add SQ heparin if INR <
   2.
   8. Losartan Potassium 12.5 mg PO DAILY
   hold for SBP <90  Order date: [**11-18**] @ 0847
   2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN  Order date: [**11-18**] @ 0844
   9. Omeprazole 20 mg PO DAILY  Order date: [**11-17**] @ 2343
   3. Atorvastatin 10 mg PO DAILY  Order date: [**11-17**] @ 2141
   10. PredniSONE 10 mg PO DAILY  Order date: [**11-17**] @ 2141
   4. Docusate Sodium 100 mg PO BID  Order date: [**11-17**] @ 2343
   11. Senna 1 TAB PO BID:PRN  Order date: [**11-17**] @ 2105
   5. Fluticasone-Salmeterol *NF* 500-50 mcg/Dose Inhalation [**Hospital1 **]  Order
   date: [**11-17**] @ 2141
   6. Furosemide 60 mg PO ONCE Duration: 1 Doses Order date: [**11-18**] @ 0847
   13. Tiotropium Bromide 1 CAP IH DAILY  Order date: [**11-17**] @ 2141
   7. Lorazepam 0.5 mg PO ONCE Duration: 1 Doses Order date: [**11-18**] @ 0104

2169-11-19 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2169-11-18**] 02:04 PM
   ECHO EF 15%, at least mild MR, mod TR, mod pulm HTN, ascending aorta
   mildly dilated, biventricular dilation. Diuresed with Lasix 60 PO and
   drip at 4.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2169-11-18**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-19**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 90 (81 - 104) bpm
   BP: 99/61(68) {74/50(46) - 112/74(80)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 90.8 kg (admission): 90.4 kg
   Height: 70 Inch
    CVP: 10 (10 - 19)mmHg
   Total In:
                                                                  1,430 mL
                                                                    488 mL
   PO:
                                                                  1,380 mL
                                                                    460 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,490 mL
   Urine:
                                                                  1,975 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -545 mL
                                                                 -1,002 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   10.0 g/dL
   88 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   39 mg/dL
   94 mEq/L
   131 mEq/L
   31.0 %
   10.4 K/uL
        [image002.jpg]
                            [**2169-11-17**]  09:12 PM
                            [**2169-11-18**]  05:38 AM
                            [**2169-11-18**]  05:02 PM
                            [**2169-11-19**]  04:44 AM
   WBC
   8.3
   10.4
   Hct
   31.5
   31.0
   Plt
   179
   175
   Cr
   2.5
   2.4
   2.1
   1.9
   TropT
   0.02
   <0.01
   Glucose
   156
   107
   88
   Other labs: PT / PTT / INR:24.7/38.6/2.4, CK / CKMB /
   Troponin-T:30//<0.01, Lactic Acid:0.9 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypovolemic hypotension.
   .
   HYPOTENSION - Multiple potential causes exist for his hypotension.  He
   was well diuresed, coming in 2 lbs over dry weight following 1.5 L
   resuscitation in the ED.  He was also discharged on increased
   beta-blockade.  The absence of p-waves on his EKG raises the
   possibility of atrial-venous asynchrony.  He has reduced cardiac output
   from cardiomyopathy.  He is on chronic steroids and could have a
   component of adrenal insufficiency.  Although he had a recent
   infection, this was treated with broad spectrum antibiotic coverage and
   he has no signs of infection.  No evidence of active ischemia or
   cardiogenic shock.  Lactate is non-specific.  PE unlikely given
   therapeutic INR, but would consider if hypotension persists.
   - hold antihypertensives, would discharge on lower BB dose.
   - no antibiotics for now
   - follow blood, urine, sputum cultures, fever curve, white count.
   - PA and lateral CXR
   - trend lactate
   - wean levophed
   - consider swan-catheter to eval volume status and cardiac function in
   AM
   .
   VENTRICULAR ARRYTHMIA: History of VT in the setting of volume
   overload.  Also, scheduled for ablation on Monday.
   - hold coumadin in preparation for ablation
   - monitor on tele
   - Will make EP aware.
   CONGESTIVE HEART FAILURE: Was likely at or below dry weight on
   admission, now up 1.5 L.  Elevated BNP, JVP, CVP.
   - will diurese gently with Lasix 60 mg daily.
   COPD: Does not appear to be in acute flair
   - Advair/Spireva/Prednisone
   ACUTE ON CHRONIC RENAL FAILURE: On last admission, Cr improved
   initially with lasix and then increased.  Now elevated well over
   baseline.  Urine shows hyaline casts.  FeUrea 35%.  All consistent with
   pre-renal.
   - Watch Cr with rehydration
   ANION GAP ACIDOSIS: Resolved on admission to CCU following fluid
   resuscitation with falling lactate.
   # FEN: Cardiac diet
   # ACCESS: PIV's, Central line
   # PROPHYLAXIS: Theraputic INR, Colase & Senna, add SQ heparin if INR <
   2.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2169-11-17**] 08:38 PM
   18 Gauge - [**2169-11-17**] 08:40 PM
   20 Gauge - [**2169-11-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-11-20 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hypotension/Lightheadedness
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-11-19**] 10:17 AM
   IJ d/c
ed.  Pt started on digoxin and mexiletine.  No other events.
   Mouth sores present, resolved with magic mouthwash.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Other medications:
   Prednisone 10mg daily
   Atorvastatin 10mg daily
   Fluticasone
   Tiotropium
   Omeprazole 20mg daily
   Colace 100mg [**Hospital1 **]
   Losartan 12.5mg daily
   Lopressor 25mg [**Hospital1 **]
   Lasix 40mg [**Hospital1 **]
   Digoxin 0.0625mg daily
   Mexiletine 150mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-20**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 84 (81 - 101) bpm
   BP: 99/61(70) {81/47(48) - 99/73(78)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.4 kg (admission): 90.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,935 mL
                                                                    180 mL
   PO:
                                                                  1,900 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     35 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    500 mL
   Urine:
                                                                  2,210 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   NECK: Supple with JVP of 10cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular, normal S1, S2. 1-2/6 systoloic murmur at LLSB
   without radiation. No thrills, lifts. No S3 or S4.
   LUNGS: Wheezes, otherwise clear
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e. No femoral bruits.
   Labs / Radiology
   183 K/uL
   11.0 g/dL
   88 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.4 mEq/L
   37 mg/dL
   95 mEq/L
   132 mEq/L
   34.7 %
   10.6 K/uL
        [image002.jpg]
                            [**2169-11-17**]  09:12 PM
                            [**2169-11-18**]  05:38 AM
                            [**2169-11-18**]  05:02 PM
                            [**2169-11-19**]  04:44 AM
                            [**2169-11-20**]  04:32 AM
   WBC
   8.3
   10.4
   10.6
   Hct
   31.5
   31.0
   34.7
   Plt
   179
   175
   183
   Cr
   2.5
   2.4
   2.1
   1.9
   1.8
   TropT
   0.02
   <0.01
   Glucose
   156
   107
   88
   88
   Other labs: PT / PTT / INR:20.5/37.9/1.9, CK / CKMB /
   Troponin-T:30//<0.01, Lactic Acid:0.9 mmol/L, Ca++:7.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypovolemic hypotension.
   HYPOTENSION
 Resolved.  Pt with SBPs occasionally in 70s on lasix gtt,
   turned down.
   - Continue Lopressor 25mg [**Hospital1 **], Losartan 12.5mg.
   - d/c lasix gtt, start po
   - decease Lopressor if SBPs persistently below 90.
   - follow blood and urine cx with NGTD
   - PA and lateral CXR.
   VENTRICULAR ARRYTHMIA: History of VT in the setting of volume
   overload.  Possible ablation on Monday.
   - hold coumadin in preparation for ablation
   - monitor on tele
   CONGESTIVE HEART FAILURE: Stable
   - will start po Lasix, goal even.
   COPD: Does not appear to be in acute flair
   -          Advair/Spireva/Prednisone
   -          Add Xopenex
   ACUTE ON CHRONIC RENAL FAILURE: Improving.
   - Watch Cr
   ANION GAP ACIDOSIS: Resolved on admission to CCU following fluid
   resuscitation with falling lactate.
   # FEN: Cardiac diet
   # ACCESS: PIV's
   -d/c Central line today
   # PROPHYLAXIS: Theraputic INR, Colase & Senna, add SQ heparin if INR <
   2.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-11-17**] 08:40 PM
   20 Gauge - [**2169-11-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-11-21 03:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2169-11-19**] 10:17 AM
   Started on heparin.  EP recs, will watch on mexelitine.  Plan for 300
   mg tomorrow.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2169-11-20**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-21**] 03:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 81 (81 - 105) bpm
   BP: 99/61(70) {85/42(53) - 104/72(77)} mmHg
   RR: 29 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 90.4 kg (admission): 90.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,066 mL
                                                                    160 mL
   PO:
                                                                    900 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    166 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    200 mL
   Urine:
                                                                  1,350 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -284 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   NECK: Supple with JVP of 10cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular, normal S1, S2. 1-2/6 systoloic murmur at LLSB
   without radiation. No thrills, lifts. No S3 or S4.
   LUNGS: Wheezes, otherwise clear
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e. No femoral bruits.
   Labs / Radiology
   150 K/uL
   9.8 g/dL
   91 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   36 mg/dL
   93 mEq/L
   127 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2169-11-17**]  09:12 PM
                            [**2169-11-18**]  05:38 AM
                            [**2169-11-18**]  05:02 PM
                            [**2169-11-19**]  04:44 AM
                            [**2169-11-20**]  04:32 AM
                            [**2169-11-21**]  01:37 AM
   WBC
   8.3
   10.4
   10.6
   8.6
   Hct
   31.5
   31.0
   34.7
   29.4
   Plt
   179
   175
   183
   150
   Cr
   2.5
   2.4
   2.1
   1.9
   1.8
   1.7
   TropT
   0.02
   <0.01
   Glucose
   156
   107
   88
   88
   91
   Other labs: PT / PTT / INR:22.4/139.8/2.1, CK / CKMB /
   Troponin-T:30//<0.01, ALT / AST:28/16, Alk Phos / T Bili:96/1.2, Lactic
   Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Micro: MRSA (+)
   Assessment and Plan
   74 M with dialated cardiomyopathy s/p AICD placement admitted for
   hypovolemic hypotension.
   VENTRICULAR ARRYTHMIA: History of VT in the setting of volume
   overload.  Patient continues to have VT and ectopy.
   - Continue digoxin, increase Mexiletine to 200mg TID
   - hold coumadin for now, restart if no plans for procedure
   - EP recommendations
   - monitor on tele
   Pump:  Hypotension resolved.
   - Continue Lopressor 25mg [**Hospital1 **], Losartan 12.5mg.
   CONGESTIVE HEART FAILURE: Stable
   - continue po Lasix, goal even.
   COPD: Does not appear to be in acute flair
   -          Advair/Spireva/Prednisone
   -          Add Xopenex
   ACUTE ON CHRONIC RENAL FAILURE: Improving.
   - Watch Cr, has been improving.
   ANION GAP ACIDOSIS: Resolved on admission to CCU following fluid
   resuscitation with falling lactate.
   # FEN: Cardiac diet
   # ACCESS: PIV's
   # PROPHYLAXIS: Theraputic INR, Colase & Senna, add SQ heparin if INR <
   2.
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**11-17**] @ 2105
   10. Maalox/Diphenhydramine/Lidocaine 15 mL PO PRN  Order date: [**11-19**] @
   1850
   2. Atorvastatin 10 mg PO DAILY  Order date: [**11-17**] @ 2141
   11. Metoprolol Tartrate 25 mg PO BID
   hold for sys bp less than 90 or HR less than 60  Order date: [**11-18**] @
   1223
   3. Digoxin 0.0625 mg PO DAILY  Order date: [**11-19**] @ 1055
   12. Mexiletine 200 mg PO TID  Order date: [**11-20**] @ 0859
   4. Docusate Sodium 100 mg PO BID  Order date: [**11-17**] @ 2343
   13. Omeprazole 20 mg PO DAILY  Order date: [**11-17**] @ 2343
   5. Fluticasone-Salmeterol *NF* 500-50 mcg/Dose Inhalation [**Hospital1 **]  Order
   date: [**11-17**] @ 2141
   14. PredniSONE 10 mg PO DAILY  Order date: [**11-17**] @ 2141
   6. Furosemide 40 mg PO BID  Order date: [**11-19**] @ 0905
   15. Senna 1 TAB PO BID:PRN  Order date: [**11-17**] @ 2105
   7. Heparin IV Sliding Scale
   Order date: [**11-20**] @ 1044
   16. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**11-17**] @ 2105
   8. Levalbuterol HCl *NF* 0.63 mg/3 mL Inhalation q4 PRN  Order date:
   [**11-20**] @ 0859
   17. Tiotropium Bromide 1 CAP IH DAILY  Order date: [**11-17**] @ 2141
   9. Losartan Potassium 12.5 mg PO DAILY
   hold for SBP <90  Order date: [**11-18**] @ 0847